US06673809B2
5-[4-(t-Butyldimethylsilanyloxy)cyclopent-2-en-1-yl]-9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one
To a stirred solution of 4-(t-butyldimethylsilanyloxy)cyclopent-2-enyloxy acetate (3.4 g, 13.3 mmol) in DMF (140 mL) was added tetrakis(triphenylphosphine)palladium (1.54 g, 1.3 mmol) and 9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one potassium salt (4.4 g, 16.2 mmol). The reaction mixture was stirred at 55° C. for 6 hours. It was diluted with ethyl acetate, washed (brine), dried (Na2SO4), filtered and concentrated. Column chromatography (silica gel, hexanes/ethyl acetate, gradient) gave desired product (5.7 g, 67%). 1H NMR (CDCl3, 400 MHz) δ; 7.83 (m, 1H); 7.22 (m, 2H); 6.50 (t, 1H); 5.84 (m, 2H); 4.85 (t, 1H); 2.82 (s, 3H); 2.78 (m, 1H); 2.02 (m, 1H); 0.81 (s, 9H); 0.02 (s, 3H); 0.00 (s, 3H).

reactant | 4-(t-butyldimethylsilanyloxy)cyclopent-2-enyloxy acetate | 13.3 mmol, 3.4 g | C(C)(=O)OOC1C=CC(C1)O[Si](C)(C)C(C)(C)C | C13H24O4Si
reactant | 9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one potassium salt | 16.2 mmol, 4.4 g | [K].ClC=1C=2C=3C(C(NC2C=CC1)=O)=C(ON3)C
solvent | DMF | 140 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 1.3 mmol, 1.54 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[4-(t-Butyldimethylsilanyloxy)cyclopent-2-en-1-yl]-9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one | 5.7 g, 67% | [Si](C)(C)(C(C)(C)C)OC1C=CC(C1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O | C22H27ClN2O3Si
